US07960425B2
Synthesis of 5-hydrazinocarbonylthiophene-2-carboxylic Acid 2-propylamide
Methyl 5-(2-propylcarbamoyl)thiophene-2-carboxylate (1.22 g, 5.37 mmol) in ethanol (40 mL) was heated with hydrazine monohydrate (2.7 g) at 85° C. for 16 hours with reflux. After cooling, the solvent was evaporated, the resulting solid was recrystallized from chloroform to give 549.2 mg of the desired product (yield 45%).

reactant | Methyl 5-(2-propylcarbamoyl)thiophene-2-carboxylate | 5.37 mmol, 1.22 g | CC(C)NC(=O)C1=CC=C(S1)C(=O)OC | C10H13NO3S
reactant | hydrazine monohydrate | 2.7 g | O.NN
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 5-hydrazinocarbonylthiophene-2-carboxylic Acid 2-propylamide | 549.2 mg, yield 45% | CC(C)NC(=O)C=1SC(=CC1)C(=O)NN | C9H13N3O2S
